US05547975
Acrylic acid (2.66 g, 37 mmol) and 3-chlorothiophenol (4.85 g, 34 mmol) were dissolved in ether (15 mL) and stirred at room temperature for 88.0 hours. The reaction mixture solidified, was dissolved in ether and extracted with 5% NaOH. The aqueous layer was acidified with concentrated hydrochloric acid, extracted with ether, washed with brine, dried over MgSO4, and concentrated in vacuo to give the 3-(3-chlorophenylthio)propanoic acid (2.20 g, 34%): 1H NMR (acetone-d6) 300 MHz 7.33-7.40 (m, 3H) 7.24 (m, 1H) 3.25 (t, J=7.1 Hz, 2H) 2.67 (t, J=7.1 Hz, 2H). Mass spectrum: M+H=217.

reactant | Acrylic acid | 37 mmol, 2.66 g | C(C=C)(=O)O | C3H4O2
reactant | 3-chlorothiophenol | 34 mmol, 4.85 g | ClC=1C=C(C=CC1)S | C6H5ClS
solvent | ether | 15 mL | CCOCC | C4H10O
product | 3-(3-chlorophenylthio)propanoic acid | 2.20 g, 34% | ClC=1C=C(C=CC1)SCCC(=O)O | C9H9ClO2S
